US08003647B2
3-Formyl-1H-indole-5-carboxylic acid benzyl ester
To a solution of 1H-indole-5-carboxylic acid benzyl ester (3.5 g) in N,N-dimethylformamide (30 mL) was added phosphoryl chloride (2.6 g) under ice cooling and this mixture was stirred at room temperature for 2 hours. To this reaction mixture was added 2 mol/L aqueous sodium hydroxide solution until the pH became 6 and this mixture was stirred at 70° C. for 30 minutes. After cooling to ambient temperature, the precipitated solid was collected by filtration, and washed with water and methanol, dried to give the title compound (3.9 g).

reactant | 1H-indole-5-carboxylic acid benzyl ester | 3.5 g | C(C1=CC=CC=C1)OC(=O)C=1C=C2C=CNC2=CC1 | C16H13NO2
reactant | phosphoryl chloride | 2.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 2 mol/L | [OH-].[Na+]
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3-Formyl-1H-indole-5-carboxylic acid benzyl ester | 3.9 g | C(C1=CC=CC=C1)OC(=O)C=1C=C2C(=CNC2=CC1)C=O | C17H13NO3
